US07022695B2
A solution of 5-fluoro-2-nitrobenzoic acid (10.0 g, 54 mmol, 1.0 equiv.), 2-amino-5-chloropyridine (9.02 g, 1.3 equiv.), in 80 mL of pyridine was treated with phosphorous oxychloride (25.3 g, 3.0 equiv.) for 30 minutes. The volatile was evaporated and the residue was redissolved into EtOAc, washed with 1N HCl, saturated aqueous NaHCO3 and saturated aqueous NaCl. The organic layer was dried over Na2SO4, filtered, and evaporated. The product was triturated with diethyl ether to give N-(5-chloro-2-pyridinyl)-(2-nitro)-5-fluorophenylcarboxamide (11.5 g, 72%). MS found for C12H7ClFN3O'(M+H)+: 296, (M+2+H): 298.

reactant | 5-fluoro-2-nitrobenzoic acid | 54 mmol, 10.0 g, 1.0 equiv. | FC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4FNO4
reactant | 2-amino-5-chloropyridine | 9.02 g, 1.3 equiv. | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | phosphorous oxychloride | 25.3 g, 3.0 equiv. | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 80 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-chloro-2-pyridinyl)-(2-nitro)-5-fluorophenylcarboxamide | 11.5 g, 72% | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)F)[N+](=O)[O-] | C12H7ClFN3O3
